US04028089
The procedure described in Example 1 is repeated using, instead of 3,3-bis(methylthio)-2-cyanoacrylonitrile, an equivalent amount of 3,3-bis(methylthio)-2-cyanoacrylamide and holding the mixture under reflux for 12 hours to obtain 2-benzoxazolinylidene-cyanoacetic acid amide of melting point 220°-222° C. (dec.) (from methanol).

reactant | 3,3-bis(methylthio)-2-cyanoacrylonitrile | CSC(=C(C#N)C#N)SC | C6H6N2S2
reactant | 3,3-bis(methylthio)-2-cyanoacrylamide | CSC(=C(C(=O)N)C#N)SC | C6H8N2OS2
solvent | methanol | CO | CH4O
product | 2-benzoxazolinylidene-cyanoacetic acid amide | O1C(NC2=C1C=CC=C2)=C(C(=O)N)C#N | C10H7N3O2
